US08217066B2
Step 1: (E)-1-[5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-yl]-2,2-difluoro-4-(4-fluoro-phenyl)-but-3-en-1-ol:
Prepared according to the procedure described in Example 39, Step 1, using 1-[5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-2,2-difluoro-but-3-en-1-ol and 1-fluoro-4-iodo-benzene.

reactant | 1-[5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-2,2-difluoro-but-3-en-1-ol | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)C(C(C=C)(F)F)O | C14H12BrF2NO2
reactant | 1-fluoro-4-iodo-benzene | FC1=CC=C(C=C1)I | C6H4FI
product | (E)-1-[5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-yl]-2,2-difluoro-4-(4-fluoro-phenyl)-but-3-en-1-ol | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)C(C(\C=C\C1=CC=C(C=C1)F)(F)F)O | C20H15BrF3NO2
